US08084614B2
Step 34D: 2-(3-tert-Butoxycarbonyl-propoxy)-4-chloro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid-2-trimethylsilanyl-ethyl ester
2-(3-tert-Butoxycarbonyl-propoxy)-4-chloro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl-benzoic acid-2-trimethylsilanyl-ethyl ester (2.7 g) was similarly prepared according to Step 2D from 5-bromo-2-(3-tert-butoxycarbonyl-propoxy)-4-chloro-benzoic acid 2-trimethylsilanyl-ethyl ester (3.2 g). MS ion (APCI): 513.2, 459.1; tR=3.62 min. (method 1)

reactant | 4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl-benzoic acid-2-trimethylsilanyl-ethyl ester | 2.7 g | C[Si](CCOC(C1=C(C=CC=C1)B1OC(C(O1)(C)C)(C)C)=O)(C)C | C18H29BO4Si
reactant | 5-bromo-2-(3-tert-butoxycarbonyl-propoxy)-4-chloro-benzoic acid 2-trimethylsilanyl-ethyl ester | 3.2 g | C[Si](CCOC(C1=C(C=C(C(=C1)Br)Cl)OCCCC(=O)OC(C)(C)C)=O)(C)C | C20H30BrClO5Si
product | 2-(3-tert-Butoxycarbonyl-propoxy)-4-chloro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid-2-trimethylsilanyl-ethyl ester | C[Si](CCOC(C1=C(C=C(C(=C1)B1OC(C(O1)(C)C)(C)C)Cl)OCCCC(=O)OC(C)(C)C)=O)(C)C | C26H42BClO7Si
